### PR TITLE
Category/Presheaf notations, univalent displayed categories, Displayed categories in BinProduct and Elements

### PR DESCRIPTION
**Pull request by maxsnew**
This looks big but it's mostly a re-org to clean up some redundancies in the category theory library:

1. Merge `ΣPropCat` and `FullSubcategory`
2. Implement the binary product of categories as a total category of a weakened displayed category
3. Implement the category of elements of a presheaf as a total category of a displayed category of elements.
4. In updating that, add a definition of univalent displayed categories and prove that the total category of a univalent displayed category over a univalent category is univalent.
5. Add some congruence notation to Category and add PresheafNotation (that we use heavily downstream in `cubical-categorical-logic`).
6. Some minor definitions we have in `cubical-categorical-logic` like `Functorⱽ` and `isSetDep`...

Changing the definition of binary product looks a bit scary but I put a display pragma on it so that I don't think it should ever leak out. If we didn't have `no-eta-equality` for categories, it would be `refl` equal to the old definition, so no code broke with the change.

The most substantive change is that in porting the category of elements to be defined using a total category, I defined univalent displayed categories.

### CODE REVIEW

**Comment by mortberg** [comment]
This seems like a welcome change even though I haven't looked at it closely yet. How about making sure that we merge https://github.com/agda/cubical/pull/1300 first and then you fix the potential conflicts in this PR?

I plan to take a look at https://github.com/agda/cubical/pull/1300 ASAP and merge once me and the CI are happy

File: Cubical/Categories/Category/Base.agda [hunk 1]
```diff
@@ -108,13 +118,22 @@ idCatIso {C = C} = C .id , isiso (C .id) (C .⋆IdL (C .id)) (C .⋆IdL (C .id))
...
+pathToMorphism : {C : Category ℓ ℓ'} {x y : C .ob} (p : x ≡ y) → C [ x , y ]
+pathToMorphism {C = C} p = pathToIso {C = C} p .fst
+
 pathToIso-refl : {C : Category ℓ ℓ'} {x : C .ob} → pathToIso {C = C} {x} refl ≡ idCatIso
 pathToIso-refl {C = C} {x} = JRefl (λ z _ → CatIso C x z) (idCatIso)
 
+eqToIso : {C : Category ℓ ℓ'} {x y : C .ob} (p : x Eq.≡ y) → CatIso C x y
+eqToIso {C = C} Eq.refl = idCatIso
+
+-- eqToIso-refl would just be refl
```
Comment (mortberg) [inline Cubical/Categories/Category/Base.agda]: Should this comment be removed?

File: Cubical/Categories/Presheaf/Morphism.agda [hunk 2]
```diff
@@ -45,38 +50,38 @@ module _ {C : Category ℓc ℓc'}{D : Category ℓd ℓd'}
...
-    pushEltF .F-hom {x}{y} (f , commutes) .snd =
-      pushElt _ .snd ∘ᴾ⟨ Q ⟩ F .F-hom f
-        ≡⟨ pushEltNat y f ⟩
-      pushElt (_ , y .snd ∘ᴾ⟨ P ⟩ f) .snd
-        ≡⟨ cong (λ a → pushElt a .snd) (ΣPathP (refl , commutes)) ⟩
-      pushElt x .snd ∎
-    pushEltF .F-id = Σ≡Prop (λ x → (Q ⟅ _ ⟆) .snd _ _) (F .F-id)
-    pushEltF .F-seq f g =
-      Σ≡Prop ((λ x → (Q ⟅ _ ⟆) .snd _ _)) (F .F-seq (f .fst) (g .fst))
+    -- -- This should define a functor on the category of elements
```
Comment (mortberg) [inline Cubical/Categories/Presheaf/Morphism.agda]: The commented code can probably be deleted?

**Review by mortberg — CHANGES_REQUESTED** [review]
Just two minor comments about comments. Once these have been resolved I would be happy to merge

File: Cubical/Categories/Category/Base.agda (hunk 1 above)
Comment (maxsnew) [reply Cubical/Categories/Category/Base.agda]: Because it's too obvious? I could also add the trivial proof to document it

Comment (maxsnew) [reply Cubical/Categories/Category/Base.agda]: I pushed an update where I include the trivial proof

File: Cubical/Categories/Presheaf/Morphism.agda (hunk 2 above)
Comment (maxsnew) [reply Cubical/Categories/Presheaf/Morphism.agda]: done

File: Cubical/Categories/Category/Base.agda (hunk 1 above)
Comment (mortberg) [reply Cubical/Categories/Category/Base.agda]: Ah ok, now I understand! It's indeed good to include it so that if someone tries to change something we will notice if this breaks
